US05925755
Iodomethane (324.89 g, 2.288 mol) was added dropwise, with stirring, to magnesium turnings (54.88 g, 2.288 mol) in dry ether (1 liter), to form methyl magnesium iodide. 2,3-Dichlorobenzaldehyde (200 g, 1.144 mol) dissolved in benzene/diethyl ether (1 liter, 50:50) solution was added dropwise, with stirring, to the Grignard. The reaction mixture was allowed to stir at room temperature overnight. The solution was refluxed for 2 hours, and then allowed to cool. The reaction mixture was poured into saturated ammonium chloride solution (5 liters) and the organic layer separated. The aqueous layer was extracted with ether (3×2 liters). The organic phases were combined, washed with brine (1×2 liters), dried over anhydrous magnesium sulphate, filtered and evaporated down. α-Methyl-2,3-dichlorobenzyl alcohol (196.4 g, 90% yield) was obtained as a yellow oil which crystallised on standing to give a pale-yellow solid. T.l.c. (SiO2 ;CHCl3) showed no impurities so no further purification was carried out. However, if necessary the alcohol nay be recrystallised from 40-60° C. petroleum ether to afford white prisms of melting point 53° C.

reactant | 2,3-Dichlorobenzaldehyde | 1.144 mol, 200 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | ammonium chloride | 5 liters | [Cl-].[NH4+]
reactant | benzene diethyl ether | 1 liter | C1=CC=CC=C1.C(C)OCC
product | α-Methyl-2,3-dichlorobenzyl alcohol | 196.4 g, 90% yield | CC(C1=C(C(=CC=C1)Cl)Cl)O | C8H8Cl2O
